US05618811
G. N-tert-butyl-2-(3-azido-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl)ethanoic acid amide
To a 125 ml round-bottomed flask equipped with a nitrogen inlet were added 8.2 grams (18.5 mmol) N-tert-butyl 2-(3-bromo-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl) ethanoic acid amide and 40 ml dimethylformamide. After dissolution, a solution of 1.44 grams (22.2 mmol) sodium azide in 2 mL water (with two additional 0.75 ml portions of water) was added, and the solution heated at 80°-85° C. for 4 hours 20 minutes (at this point, tlc and NMR of an aliquot indicated a 75/15/10 ratio of desired azide/isomeric azide/starting material). The reaction was cooled, poured into water, and extracted twice into ethyl acetate. The organic layer was washed with water and brine, dried over sodium sulfate and evaporated. The residue was chromatographed on silica gel using 3:1 hexane/ethyl acetate to give 5.80 grams (77%) of a foam which solidified.

reactant | N-tert-butyl 2-(3-bromo-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl) ethanoic acid amide | 18.5 mmol, 8.2 grams | C(C)(C)(C)NC(CN1C(C(CC(C2=C1C=CC=C2)C2=CC=CC=C2)Br)=O)=O | C22H25BrN2O2
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | sodium azide | 22.2 mmol, 1.44 grams | [N-]=[N+]=[N-].[Na+]
reactant | azide | [N-]=[N+]=[N-]
solvent | water | 2 mL | O | H2O
product | N-tert-butyl-2-(3-azido-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl)ethanoic acid amide | 5.80 grams, 77% | C(C)(C)(C)NC(CN1C(C(CC(C2=C1C=CC=C2)C2=CC=CC=C2)N=[N+]=[N-])=O)=O | C22H25N5O2
